data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[c:1]1([N+:7](=[O:19])[O-:20])[s:8][cH:3][c:11]([N+:6](=[O:13])[O-:16])[cH:18]1.[c:2]1([O-:17])[cH:14][cH:4][c:10]([O:12][CH3:9])[cH:5][cH:15]1>>[C:1]1([N+:7](=[O:19])[O-:20])=[CH:18][C:11](=[N+:6]([O-:13])[O-:16])[CH:3]([O:17][c:2]2[cH:14][cH:4][c:10]([O:12][CH3:9])[cH:5][cH:15]2)[S:8]1", "epd": [["LP-/Sigma+", [17], [17, 3]], ["Pi-/Pi+", [3, 11], [11, 6]], ["Pi-/LP+", [6, 13], [13]]]}
{"reaction_name": "Electrophilic chlorination", "rsmi": "[C:1]1([Cl:15])=[C:24]([Cl:9])[C:25]([Cl:20])=[C:7]([Cl:19])[C:22]([Cl:3])([Cl:4])[C:10]1=[O:16].[cH:2]1[cH:11][cH:6][c:17]2[c:5]([cH:21]1)[CH:23]([Zn-:14]([Cl:12])[Cl:13])[CH:18]=[CH:8]2>>[Cl:12][Zn:14][Cl:13].[c:1]1([Cl:15])[c:10]([O-:16])[c:22]([Cl:4])[c:7]([Cl:19])[c:25]([Cl:20])[c:24]1[Cl:9].[cH:2]1[cH:11][cH:6][c:17]2[c:5]([cH:21]1)[CH:23]([Cl:3])[CH:18]=[CH:8]2", "epd": [["Sigma-/Sigma+", [23, 14], [23, 3]], ["Sigma-/Pi+", [3, 22], [22, 10]], ["Pi-/LP+", [10, 16], [16]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:1][O:3][c:6]1[cH:33][cH:17][c:12]([CH:27]=[C:25]2[CH:28]=[C:7]([Br:23])[C:10](=[O:20])[C:8]([Br:24])=[CH:29]2)[cH:18][cH:34]1.[cH:2]1[cH:14][cH:4][c:22]([C:16](=[C:9]2[N:11]([CH3:31])[C:19]([CH3:30])=[C:35]([CH3:32])[S:21]2)[O:26][CH3:13])[cH:5][cH:15]1>>[CH3:1][O:3][c:6]1[cH:33][cH:17][c:12]([CH:27]([C:16]([c:9]2[n+:11]([CH3:31])[c:19]([CH3:30])[c:35]([CH3:32])[s:21]2)([c:22]2[cH:4][cH:14][cH:2][cH:15][cH:5]2)[O:26][CH3:13])[c:25]2[cH:28][c:7]([Br:23])[c:10]([O-:20])[c:8]([Br:24])[cH:29]2)[cH:18][cH:34]1", "epd": [["LP-/Pi+", [11], [9, 11]], ["Pi-/Sigma+", [16, 9], [16, 27]], ["Pi-/Pi+", [27, 25], [25, 28]], ["Pi-/Pi+", [28, 7], [7, 10]], ["Pi-/LP+", [10, 20], [20]]]}
{"reaction_name": "Anionic nucleophile capture of a preformed localized carbocation", "rsmi": "[S:1]1(=[O:25])(=[O:26])[c:11]2[c:3]([cH:6][cH:2][cH:18][cH:5]2)[C:24]([O-:4])=[N:23]1.[cH:7]1[c:12]([CH+:29][c:13]2[cH:8][c:16]([F:21])[cH:28][c:17]([F:22])[cH:9]2)[cH:10][c:14]([F:19])[cH:27][c:15]1[F:20]>>[S:1]1(=[O:25])(=[O:26])[c:11]2[c:3]([cH:6][cH:2][cH:18][cH:5]2)[C:24](=[O:4])[N:23]1[CH:29]([c:12]1[cH:7][c:15]([F:20])[cH:27][c:14]([F:19])[cH:10]1)[c:13]1[cH:8][c:16]([F:21])[cH:28][c:17]([F:22])[cH:9]1", "epd": [["LP-/Pi+", [4], [24, 4]], ["Pi-/Sigma+", [23, 24], [23, 29]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[CH3:1][CH:9]([CH3:2])[N+:23]1=[N:25][N:21]([CH:3]([CH3:26])[CH3:27])[C:28](=[CH2:20])[C-:5]1[C:7]([CH3:29])([CH3:30])[CH3:31].[cH:4]1[cH:13][cH:6][c:8]2[c:14]([o+:10][c:12](-[c:22]3[cH:17][cH:15][cH:24][cH:16][cH:18]3)[cH:11][cH:19]2)[cH:32]1>>[CH3:1][CH:9]([CH3:2])[n+:23]1[c:5]([C:7]([CH3:29])([CH3:30])[CH3:31])[c:28]([CH2:20][CH:19]2[c:8]3[cH:6][cH:13][cH:4][cH:32][c:14]3[O:10][C:12]([c:22]3[cH:17][cH:15][cH:24][cH:16][cH:18]3)=[CH:11]2)[n:21]([CH:3]([CH3:26])[CH3:27])[n:25]1", "epd": [["LP-/Pi+", [5], [28, 5]], ["Pi-/Sigma+", [20, 28], [20, 19]], ["Pi-/Pi+", [19, 11], [11, 12]], ["Pi-/LP+", [12, 10], [10]]]}
{"reaction_name": "Cbz protection", "rsmi": "[CH3:1][N:2]([H:14])[H:15].[cH:3]1[cH:4][cH:5][cH:6][cH:7][c:8]1[CH2:9][O:10][C:11](=[O:12])[Cl:13]>>[CH3:1][N:2]([H:15])[C:11](=[O:12])[O:10][CH2:9][c:8]1[cH:7][cH:6][cH:5][cH:4][cH:3]1.[Cl:13][H:14]", "epd": [["LP-/Sigma+", [2], [2, 11]], ["Pi-/LP+", [11, 12], [12]], ["LP-/Pi+", [12], [11, 12]], ["Sigma-/LP+", [11, 13], [13]], ["LP-/Sigma+", [13], [13, 14]], ["Sigma-/LP+", [2, 14], [2]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:1]1=[CH:3][c:4]2[cH:8][cH:7][cH:17][cH:5][c:9]2[CH:19]1[Na:14].[CH:2](=[O+:16][CH3:15])[c:18]1[cH:12][cH:10][cH:6][cH:11][cH:13]1>>[CH:1]1=[CH:3][c:4]2[cH:8][cH:7][cH:17][cH:5][c:9]2[CH:19]1[CH:2]([O:16][CH3:15])[c:18]1[cH:12][cH:10][cH:6][cH:11][cH:13]1.[Na+:14]", "epd": [["Sigma-/Sigma+", [19, 14], [19, 2]], ["Pi-/LP+", [2, 16], [16]]]}
{"reaction_name": "Acetoacetate alkylation", "rsmi": "[CH3:1][Br:9].[CH3:2][C:10]([CH-:3][C:7](=[O:4])[O:5][CH2:8][CH3:6])=[O:11]>>[Br-:9].[CH3:1][CH:3]([C:7](=[O:4])[O:5][CH2:8][CH3:6])[C:10]([CH3:2])=[O:11]", "epd": [["LP-/Sigma+", [3], [1, 3]], ["Sigma-/LP+", [1, 9], [9]]]}
{"reaction_name": "Phospha-Michael addition", "rsmi": "[CH3:2][O:4][P:11]([O:5][CH3:3])(=[O:10])[H:13].[O:1]=[C:12]([CH:7]=[CH2:8])[O:9][CH3:6]>>[O:1]=[C:12]([CH:7]([CH2:8][P:11]([O:4][CH3:2])([O:5][CH3:3])=[O:10])[H:13])[O:9][CH3:6]", "epd": [["Pi-/Sigma+", [7, 8], [8, 11]], ["Sigma-/Sigma+", [11, 13], [7, 13]]]}
